US06262059B1
a) 2-(4-Ethoxycarbonylpiperidino)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinoline
A reaction of a mixture comprising 130 mg of 2,6-dichloro-4-(3,4-methylenedioxybenzyl)aminoquinoline, 500 μl of ethyl isonipecotate and 1 ml of N-methyl-2-pyrrolidone was conducted on an oil bath at 150° C. for 3 hours. The reaction mixture was cooled, followed by the addition of water. The resulting mixture was extracted with ethyl acetate and the ethyl acetate layer was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography with 20 to 50% ethyl acetate/hexane to give 150 mg of the title compound.

reactant | 2,6-dichloro-4-(3,4-methylenedioxybenzyl)aminoquinoline | 130 mg | ClC1=NC2=CC=C(C=C2C(=C1)NCC1=CC2=C(C=C1)OCO2)Cl | C17H12Cl2N2O2
reactant | ethyl isonipecotate | 500 μl | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | N-methyl-2-pyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-(4-Ethoxycarbonylpiperidino)-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinoline | 150 mg | C(C)OC(=O)C1CCN(CC1)C1=NC2=CC=C(C=C2C(=C1)NCC1=CC2=C(C=C1)OCO2)Cl | C25H26ClN3O4
